US07612068B2
2-[3-(3-Fluoro-phenylsulfanyl)-biphenyl-4-yloxy]-ethanol
3-(3-Fluoro-phenylsulfanyl)-biphenyl-4-ol (2.65 g, 8.94 mmol) and potassium carbonate (2.113 g, 15.3 mmol) was dissolved in DMF (30 mL). Ethylene carbonate (1.601 g, 18.2 mmol) was added and the reaction was heated at 100° C. for 150 minutes. The solution was allowed to cool before the solution was carefully poured into 2M HCl (50 mL). The product was extracted with diethyl ether (50 mL). The separated organic phase was washed with water (4×50 mL), 4% aq. MgSO4, brine and then the separated organic phase was dried (MgSO4). The title product was isolated after concentration in vacuo. Yield: 2.96 g, 97%

reactant | 3-(3-Fluoro-phenylsulfanyl)-biphenyl-4-ol | 8.94 mmol, 2.65 g | FC=1C=C(C=CC1)SC=1C=C(C=CC1O)C1=CC=CC=C1 | C18H13FOS
reactant | potassium carbonate | 15.3 mmol, 2.113 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethylene carbonate | 18.2 mmol, 1.601 g | C1(OCCO1)=O | C3H4O3
reactant | HCl | 2M, 50 mL | Cl | ClH
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-[3-(3-Fluoro-phenylsulfanyl)-biphenyl-4-yloxy]-ethanol | FC=1C=C(C=CC1)SC=1C=C(C=CC1OCCO)C1=CC=CC=C1 | C20H17FO2S
